US07550629B2
A solution of methyl 2-amino-3-(trifluoromethyl)-4,4,4-trifluorobutanoate (2.12 g, 8.87 mmol) in CH2Cl2 (10 mL) was stirred under nitrogen at 25° C. Pyridine (10 mL, 126 mmol) was added dropwise followed by 4-chloro-benzenesulfonyl chloride (2.81 g, 13.3 mmol) in one portion, and the resulting solution stirred for 18 hours at 25° C. After this time period, the reaction was complete by TLC (20:80 EtOAc:PE). After quenching with H2O, the mixture was diluted with Et2O (200 mL). The organic layer was washed with 1 N aq. HCl (20 mL), sat. aq. NaHCO3 (20 mL), and brine (20 mL), and then dried (MgSO4). After concentration, the crude product was purified by Biotage Flash™ 40 chromatography, eluent: 5:95 to 20:80 EtOAc:PE, to obtain methyl 2-[(4-chloro-phenyl)sulfonylamino]-3-trifluoromethyl-4,4,4-trifluorobutanoate as a solid (1.53 g, 42%). Mass Spectrum

reactant | methyl 2-amino-3-(trifluoromethyl)-4,4,4-trifluorobutanoate | 8.87 mmol, 2.12 g | NC(C(=O)OC)C(C(F)(F)F)C(F)(F)F | C6H7F6NO2
reactant | Pyridine | 126 mmol, 10 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-chloro-benzenesulfonyl chloride | 13.3 mmol, 2.81 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-[(4-chloro-phenyl)sulfonylamino]-3-trifluoromethyl-4,4,4-trifluorobutanoate | 1.53 g, 42% | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)OC)C(C(F)(F)F)C(F)(F)F | C12H10ClF6NO4S
